US07378409B2
Synthesis of 3-(2-((1R,2S,5R)-5-(ethyl(methyl)amino)-2-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexyl)ethyl)benzoic acid
Following the procedure of Example 7e, methyl 3-(2-((1R,2S,5R)-5-(ethyl(methyl)amino)-2-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexyl)ethyl)benzoate (13 mg) was converted to the trifluoroacetic acid salt of the title compound as a white powder (7 mg) after purification by reverse phase HPLC and lyophilization. MS found: (M+H)+=534.4.

reactant | methyl 3-(2-((1R,2S,5R)-5-(ethyl(methyl)amino)-2-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexyl)ethyl)benzoate | 13 mg | C(C)N([C@@H]1CC[C@@H]([C@@H](C1)CCC=1C=C(C(=O)OC)C=CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C | C29H36F3N3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2-((1R,2S,5R)-5-(ethyl(methyl)amino)-2-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexyl)ethyl)benzoic acid | 7 mg | C(C)N([C@@H]1CC[C@@H]([C@@H](C1)CCC=1C=C(C(=O)O)C=CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C | C28H34F3N3O4
